US07981903B2
A suspension of 6-(ethyloxy)-7-nitro-1,2,3,4-tetrahydroquinoline (5.0 g, 22.50 mmol) and potassium carbonate (6.22 g, 45.0 mmol) in dichloromethane (100 mL) was treated with bromoacetylchloride (2.336 mL, 28.1 mmol) and stirred for 25 minutes. Water was added and the organic layer was dried over sodium sulfate, filtered, taken to a residue under reduced pressure, redissolved in THF, and 2.0M dimethyl amine in THF (67.5 mL, 135 mmol) was added. The solution was stirred overnight, diluted with saturated sodium bicarbonate, and the organic layer was dried over sodium sulfate, filtered, taken to a residue under reduced pressure, and purified by column chromatography to afford {2-[6-(ethyloxy)-7-nitro-3,4-dihydro-1(2H)-quinolinyl]-2-oxoethyl}dimethylamine (5.8 g, 84% yield) as a pale yellow oil. 1H NMR (400 MHz, DMSO-d6) δ ppm 8.34 (s, 1 H), 7.16 (s, 1 H), 4.17 (q, J=6.96 Hz, 2 H), 3.74 (t, J=5.62 Hz, 2 H), 3.21 (s, 2 H), 2.80 (t, J=6.32 Hz, 2 H), 2.21 (s, 6 H), 1.76-2.01 (m, 2 H), 1.33 (t, J=6.92 Hz, 3 H).

reactant | 6-(ethyloxy)-7-nitro-1,2,3,4-tetrahydroquinoline | 22.50 mmol, 5.0 g | C(C)OC=1C=C2CCCNC2=CC1[N+](=O)[O-] | C11H14N2O3
reactant | potassium carbonate | 45.0 mmol, 6.22 g | C([O-])([O-])=O.[K+].[K+]
reactant | bromoacetylchloride | 28.1 mmol, 2.336 mL | BrCC(=O)Cl | C2H2BrClO
reactant | dimethyl amine | 2.0M | CNC | C2H7N
reactant | THF | 135 mmol, 67.5 mL | C1CCOC1 | C4H8O
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
solvent | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | Water | O | H2O
product | {2-[6-(ethyloxy)-7-nitro-3,4-dihydro-1(2H)-quinolinyl]-2-oxoethyl}dimethylamine | 5.8 g, 84% yield | C(C)OC=1C=C2CCCN(C2=CC1[N+](=O)[O-])C(CN(C)C)=O | C15H21N3O4
